US08003783B2
16-Benzylidene-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol (CAB01128, STX313).
16-Benzylidene-3-hydroxy-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one (179 mg, 0.50 mmol, CAB01122) was dissolved in ethanol (10 ml) and THF (10 ml). The resulting light yellow solution was cooled to 0° C. (ice bath) and sodium borohydride (100 mg, 2.64 mmol) was added. The reaction mixture was stirred overnight at room temperature, the solvents were removed under reduced pressure and the residue was dissolved in ethyl acetate (40 ml). The organic solution was washed with water (2×25 ml) and brine (25 ml), dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in a small amount of ethyl acetate and precipitated by addition of hexane. The white solid was filtered off and dried under high vacuum. Yield 175 mg (97%). 1H-NMR (d6-DMSO, 270 MHz), δ: 0.61 (s, 3H), 1.20-1.50 (m, 5H), 1.82-0.98 (m, 2H), 2.20-2.35 (m, 3H), 2.58-2.82 (m, 3H), 3.95-4.05 (m, 1H, H-17), 5.15 (d, J=6.2 Hz, 1H), 6.43 (s, 1H), 6.46 (d, J=2.3 Hz, 1H), 6.52 (dd, J=8.2, 2.3 Hz, 1H), 7.06 (d, J=8.2 Hz, 1H), 7.15-7.20 (m, 1H), 7.31-7.41 (m, 4H). LRMS (FAB+): 343.2 (80), 360.2 (100, [M]+). LRMS (FAB−): 359.3 (100, (M−H]−). HRMS (FAB+) 360.209709 C25H28O2 requires 360.208930

reactant | 16-Benzylidene-3-hydroxy-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one | 0.50 mmol, 179 mg | C(C1=CC=CC=C1)=C1CC2C3CCC=4C=C(C=CC4C3CCC2(C1=O)C)O | C25H26O2
reactant | sodium borohydride | 2.64 mmol, 100 mg | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 16-Benzylidene-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol | C(C1=CC=CC=C1)=C1CC2C3CCC=4C=C(C=CC4C3CCC2(C1O)C)O | C25H28O2
